US05728686
d) Diethyl 1-methyl-5-(tetrahydropyran-2-yloxy)pentylphosphonate
30 g (0.097 mol) of diethyl 5-(tetrahydropyran-2-yloxy)pentylphosphonate were initially introduced into 200 ml of absolute tetrahydrofuran under an argon atmosphere, cooled to -70° C. and treated with 42.8 ml (0.107 mol) of a 2.5 molar solution of butyllithium in hexane. After addition, the solution was stirred for a further 30 minutes and 15.6 g (0.11 mol) of methyl iodide were then slowly added dropwise. The mixture was stirred at -70° C. for a further 2 hours and at room temperature for 4 hours, cautiously treated with a saturated sodium chloride solution and taken up in ethyl acetate. The organic phase was washed with water and a saturated sodium chloride solution, dried over sodium sulfate and distilled in a bulb tube.

reactant | diethyl 5-(tetrahydropyran-2-yloxy)pentylphosphonate | 0.097 mol, 30 g | O1C(CCCC1)OCCCCCP(OCC)(OCC)=O | C14H29O5P
reactant | butyllithium | C(CCC)[Li]
reactant | methyl iodide | 0.11 mol, 15.6 g | CI | CH3I
reactant | sodium chloride | [Cl-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | Diethyl 1-methyl-5-(tetrahydropyran-2-yloxy)pentylphosphonate | CC(CCCCOC1OCCCC1)P(OCC)(OCC)=O | C15H31O5P
